US04017522
N,N-bis(2-oleoyloxyethyl)benzamide
N,N-bis(oleoyloxyethyl)benzamide was prepared by the procedue of example 1 from 19.5 gms. (0.1 mole) of N,N-bis(2-hydroxyethyl)benzamide and 60 gms. (0.2 mole) of oleoyl chloride. The structure of the final product was characterized on the basis of IR and NMR spectral analyses as described in example 1.

reactant | N,N-bis(2-hydroxyethyl)benzamide | 0.1 mole | OCCN(C(C1=CC=CC=C1)=O)CCO | C11H15NO3
reactant | oleoyl chloride | 0.2 mole | C(CCCCCCC\C=C/CCCCCCCC)(=O)Cl | C18H33ClO
product | N,N-bis(2-oleoyloxyethyl)benzamide | C(CCCCCCC\C=C/CCCCCCCC)(=O)OCCN(C(C1=CC=CC=C1)=O)CCOC(CCCCCCC\C=C/CCCCCCCC)=O | C47H79NO5
